US09340556B2
To a yellow solution of 5-chloro-1-ethyl-3-(hydroxymethyl)-6,7-bis((4-methoxybenzyl)oxy) quinolin-4(1H)-one (19 g, 30.9 mmol) in Dichloromethane (DCM) (250 mL) was added manganese dioxide (41.1 g, 402 mmol), and the mixture was stirred at r.t. for overnight. The mixture was then filtered through Celite and washed with DCM. The filtrate was concentrated to afford 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carbaldehyde (17 g, 27.4 mmol, 89% yield) as a yellow solid, which was used in the next step without further purification. LCMS: (M+H)+: 508.1.

reactant | 5-chloro-1-ethyl-3-(hydroxymethyl)-6,7-bis((4-methoxybenzyl)oxy) quinolin-4(1H)-one | 30.9 mmol, 19 g | ClC1=C2C(C(=CN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)CO)=O | C28H28ClNO6
solvent | Dichloromethane | 250 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 402 mmol, 41.1 g | [O-2].[O-2].[Mn+4]
product | 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carbaldehyde | 27.4 mmol, 17 g, 89% yield | ClC1=C2C(C(=CN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)C=O)=O | C28H26ClNO6
